US07176217B2
To a solution of ethyl 2-(4-methoxybenzyl)-2-azabicyclo[2.2.1]heptane-3-carboxylate (340 mg, 1.18 mmol) in tetrahydrofuran (8 ml)-methanol (4 ml) was added 1N sodium hydroxide (8 ml), and the mixture was stirred at room temperature for 2 hours. The reaction mixture was neutralized with 1N hydrochloric acid and then concentrated. The resulting white solid was washed with chloroform and then filtrated. The filtrate was dried over magnesium sulfate and the solvent was evaporated, to give 2-(4-methoxybenzyl)-2-azabicyclo[2.2.1]heptane-3-carboxylic acid.

reactant | ethyl 2-(4-methoxybenzyl)-2-azabicyclo[2.2.1]heptane-3-carboxylate | 1.18 mmol, 340 mg | COC1=CC=C(CN2C3CCC(C2C(=O)OCC)C3)C=C1 | C17H23NO3
reactant | methanol | 4 ml | CO | CH4O
reactant | sodium hydroxide | 1N, 8 ml | [OH-].[Na+]
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | tetrahydrofuran | 8 ml | O1CCCC1 | C4H8O
product | 2-(4-methoxybenzyl)-2-azabicyclo[2.2.1]heptane-3-carboxylic acid | COC1=CC=C(CN2C3CCC(C2C(=O)O)C3)C=C1 | C15H19NO3
